US04423213
On the other hand, 7-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid (11.5 g) was dissolved in a solution of sodium bicarbonate (8.4 g) in water (50 ml) and acetone (50 ml). To this solution was added dropwise the activated acid solution obtained above at 3° to 8° C. while keeping the pH value of the mixture to 7-8 with 20% aqueous sodium carbonate, and the mixture was stirred at the same temperature for an hour. The reaction mixture was adjusted to pH 6.0 with 10% hydrochloric acid and then washed with ethyl acetate to give an aqueous solution containing 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid (syn isomer). To this aqueous solution was added a solution of diphenyldiazomethane in ethyl acetate (1 mmol/ml) (100 ml), and the mixture was acidified to pH 2.5 with 10% hydrochloric acid. After stirring at ambient temperature for 2 hours, the solution was extracted with a mixture of ethyl acetate and tetrahydrofuran (1:1). The extract was washed with a saturated aqueous sodium bicarbonate and an aqueous sodium chloride, followed by drying over magnesium sulfate. The solution was evaporated and the residue was pulverized with diethyl ether to give benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate (syn isomer) (18.5 g).

reactant | 7-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 11.5 g | NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H23N5O9S2
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | sodium bicarbonate | 8.4 g | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 1 mmol/ml, 100 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | 18.5 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C33H33N5O9S2
